US06214992B1
a) 7-Benzyl-3-propylxanthine
4.12 g (0.103 mol) of sodium hydroxide dissolved in 41 ml of water were added to a suspension of 20 g (0.103 mol) of 3-propylxanthine in 112 ml of methanol and the reaction mixture was stirred at 70° C. for one hour, then treated dropwise at the same temperature with 12.23 ml (0.103 mol) of benzyl bromide and kept between 70° and 80° C. for 4 hours. The mixture was cooled, filtered cold on a suction filter, and the product was washed with water on the suction filter and dried under reduced pressure.

reactant | sodium hydroxide | 0.103 mol, 4.12 g | [OH-].[Na+]
reactant | 3-propylxanthine | 0.103 mol, 20 g | C(CC)N1C(NC(C=2NC=NC12)=O)=O | C8H10N4O2
reactant | benzyl bromide | 0.103 mol, 12.23 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | water | 41 ml | O | H2O
solvent | methanol | 112 ml | CO | CH4O
product | 7-Benzyl-3-propylxanthine | C(C1=CC=CC=C1)N1C=NC=2N(C(NC(C12)=O)=O)CCC | C15H16N4O2
